US07671055B2
Step D Synthesis of 4-bromo-5-chloro-3-{4-[5-(trifluoromethyl)(2-pyridyl)]piperazinyl)phenol as an intermediate
A stirred solution of 0.38 gram (0.00084 mole) of 2-bromo-3-chloro-5-methoxy-1-{4-[5-(trifluoromethyl)(2-pyridyl)]piperazinyl}benzene and 0.78 gram (0.0021 mole) of n-tetrabutylammonium iodide in 30 mL of methylene chloride was cooled in a dry-ice/acetone bath and 2.1 mL (0.0021 mole, a 1.0M solution in methylene chloride) of boron trichloride was added dropwise. Upon completion of addition the reaction mixture was kept cold in the dry-ice/acetone bath for an additional 30-minute period, then it was allowed to warm to ambient temperature where it stirred during a three-hour period. After this time the reaction mixture was cooled in an ice/water bath and 15 mL of water was added. The organic layer was separated and the aqueous layer was extracted with one 15 mL portion of methylene chloride. The organic layer and the extract were combined and dried with sodium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using as eluants: 50% hexane in methylene chloride, then 100% methylene chloride, and finally 2% methanol in methylene chloride. The appropriate fractions were combined and concentrated under reduced pressure, yielding 0.17 gram of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 2-bromo-3-chloro-5-methoxy-1-{4-[5-(trifluoromethyl)(2-pyridyl)]piperazinyl}benzene | 0.00084 mole, 0.38 gram | BrC1=C(C=C(C=C1Cl)OC)N1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F | C17H16BrClF3N3O
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | water | 15 mL | O | H2O
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-5-chloro-3-{4-[5-(trifluoromethyl)(2-pyridyl)]piperazinyl)phenol | 0.17 gram | BrC1=C(C=C(C=C1Cl)O)N1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F | C16H14BrClF3N3O
